US08133886B2
Step 3.7: 6-(6-Hydroxy-2-methylsulfanyl-pyrimidin-4-ylmethyl)-naphthalene-1-carboxylic acid
2.30 g (7.37 mMol) 6-(6-oxo-2-thioxo-1,2,3,6-tetrahydro-pyrimidin-4-ylmethyl)-naphthalene-1-carboxylic acid are suspended in 160 ml THF. Then a solution of 452 mg (11.3 mMol) NaOH in 9 ml water is added, followed by 556 μl (8.93 mMol) methyliodide. After 15 h, the reaction mixture is concentrated in vacuo. The residue is used without further purification in Step 3.8. Pure title compound can be obtained by chromatography (Combi Flash; CH2Cl2→CH2Cl2/MeOH 7:1): TLC (CH2Cl2/MeOH 4:1): Rf=0.46.

reactant | 6-(6-oxo-2-thioxo-1,2,3,6-tetrahydro-pyrimidin-4-ylmethyl)-naphthalene-1-carboxylic acid | 7.37 mMol, 2.30 g | O=C1C=C(NC(N1)=S)CC=1C=C2C=CC=C(C2=CC1)C(=O)O | C16H12N2O3S
reactant | NaOH | 11.3 mMol, 452 mg | [OH-].[Na+]
reactant | methyliodide | 8.93 mMol, 556 μl | CI | CH3I
solvent | THF | 160 ml | C1CCOC1 | C4H8O
solvent | water | 9 ml | O | H2O
product | 6-(6-Hydroxy-2-methylsulfanyl-pyrimidin-4-ylmethyl)-naphthalene-1-carboxylic acid | OC1=CC(=NC(=N1)SC)CC=1C=C2C=CC=C(C2=CC1)C(=O)O | C17H14N2O3S
